US09284331B2
Step 3: 9-(isoxazol-5-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione.
100-3. NH2OH*HCl (51 mg, 0.74 mmol) was added to a mixture of (E)-9-(3-(dimethylamino)acryloyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (160 mg, 0.49 mmol) in MeOH (5 mL) and the solution was heated to reflux for 1 h. The mixture was then concentrated in vacuo and the crude product was purified by flash chromatography (SiO2, DCM/MeOH 99:1 to 90:10) to afford the title compound (90 mg) as a beige solid. UPLC-MS: MS 296.1 (M+H+). UPLC rt 0.65 nm.

reactant | NH2OH | 0.74 mmol, 51 mg | NO | H3NO
reactant | (E)-9-(3-(dimethylamino)acryloyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 0.49 mmol, 160 mg | CN(C=CC(=O)C1=C2CCN3/C(/C2=CC=C1)=C/C(NCC3=O)=O)C | C18H19N3O3
solvent | MeOH | 5 mL | CO | CH4O
product | 9-(isoxazol-5-yl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 90 mg | O1N=CC=C1C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C16H13N3O3
